* E:\Documents\PCB Design\Fluxus\LTSpice\Fluxus.asc
XU1 IN N006 5V -5V N006 ADA4610
XU2 N007 N003 5V -5V N004 ADA4610
XU3 N004 N005 5V -5V OUT ADA4610
XU4 N002 N001 5V -5V N001 ADA4610
R1 N007 N006 10k
R2 0 N007 10k
R3 N004 N003 10k
R4 N001 N003 10k
R5 N002 0 10k
R6 N002 5V 10.05k
R7 OUT N005 10k
R8 N005 0 1k
V1 5V 0 5
V2 -5V 0 -5
V3 IN 0 SINE(2.5 0.1 1Meg)
R9 OUT 0 1Meg
.tran 0 10u 0 0.1u
.lib ADI1.lib
.backanno
.end
